US08426540B2
Using 2-aminophenol and 5-(2-chlorophenyl)furan-2-carbaldehyde, 2.69 g of 2-{[5-(2-chlorophenyl)furan-2-yl]methyleneamino}phenol were obtained as a yellow powder (yield 75%).

reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | 5-(2-chlorophenyl)furan-2-carbaldehyde | ClC1=C(C=CC=C1)C1=CC=C(O1)C=O | C11H7ClO2
product | 2-{[5-(2-chlorophenyl)furan-2-yl]methyleneamino}phenol | 2.69 g | ClC1=C(C=CC=C1)C1=CC=C(O1)C=NC1=C(C=CC=C1)O | C17H12ClNO2
